US04021479
4-(4'-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid
Melting point of the cyclohexylamine salt: 174°-176° C. Prepared analogous to Example 40 from methyl 4-(4'-fluoro-4-biphenylyl)-4-oxo-butyrate.

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | methyl 4-(4'-fluoro-4-biphenylyl)-4-oxo-butyrate | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H15FO3
product | 4-(4'-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15FO3
